US07598397B2
Synthesis of (E)-3-(5-Fluoro-3-methyl-1H-indol-7-yl)-acrylic acid methyl ester, I-33.
To a mixture of 7-Bromo-5-fluoro-3-methyl-1H-indole, [which was prepared analogous to I-30, according to the method of Dobbs, A., J. Org. Chem., 66, 638-641 (2001)], (870 mg, 3.8 mmol) and methyl acrylate (819 mg, 9.5 mmol) in triethylamine (4 ml), palladium(II) acetate (112 mg, 0.5 mmol) and tri-o-tolylphosphine (428 mg, 1.42 mmol) was added under argon at rt The reaction mixture was stirred at 100° C. for 3 hrs in a sealed pressure tube and then cooled to rt The reaction mixture was diluted with CH2Cl2 (70 ml), washed with water (3×40 ml), brine, and dried over sodium sulfate. After removal of solvent, the residue purified by column chromatography on silica gel with methanol/dichloromethane as an eluent to give 690 mg of compound I-33 as a solid. 1H-NMR (500 MHz, CDCl3).

reactant | 7-Bromo-5-fluoro-3-methyl-1H-indole | BrC=1C=C(C=C2C(=CNC12)C)F | C9H7BrFN
reactant | methyl acrylate | 9.5 mmol, 819 mg | C(C=C)(=O)OC | C4H6O2
reactant | tri-o-tolylphosphine | 1.42 mmol, 428 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 70 ml | C(Cl)Cl | CH2Cl2
catalyst | palladium(II) acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-3-(5-Fluoro-3-methyl-1H-indol-7-yl)-acrylic acid methyl ester | 690 mg | COC(\C=C\C=1C=C(C=C2C(=CNC12)C)F)=O | C13H12FNO2
